US08003785B2
A mixture of 0.150 g (0.20 mmole) of {1-[4-(9-Cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoyl]-piperidin-4-yl}-carbamic acid 9H-fluoren-9-ylmethyl ester, 1 mL of piperidine and 5 mL of dichloromethane was stirred for 1 hour and then concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol-ammonium hydroxide (gradient 100:0:0-92:8:0.3) to give 0.025 g of 2-[4-(4-amino-piperidine-1-carbonyl)-2-methoxy-phenylamino]-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (I-6).

reactant | {1-[4-(9-Cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoyl]-piperidin-4-yl}-carbamic acid 9H-fluoren-9-ylmethyl ester | 0.20 mmole, 0.150 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCN(CC1)C(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCC2)N1)OC)=O)=O | C40H41F2N7O5
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[4-(4-amino-piperidine-1-carbonyl)-2-methoxy-phenylamino]-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.025 g | NC1CCN(CC1)C(=O)C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCC2)N1)OC | C25H31F2N7O3
